US09227978B2
Methyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetate
A mixture of tert-butyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetic acid (3.0 g, 8.7 mmol), SOCl2 (3 mL) in MeOH (20 mL) was stirred at reflux for 2 h. The mixture was concentrated in vacuo to yield the crude product (3.1 g) as a yellow solid.

reactant | tert-butyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetic acid | 8.7 mmol, 3.0 g | C(C)(C)(C)C(C(=O)O)NC1=C(C=C(C(=C1)I)Cl)OC | C13H17ClINO3
reactant | SOCl2 | 3 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 20 mL | CO | CH4O
product | Methyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetate | 3.1 g | ClC1=CC(=C(C=C1I)NCC(=O)OC)OC | C10H11ClINO3
